US06194461B1
3) 2-fluoro-4-methoxybenzylalcohol
To a suspension of LiAlH4 (71.6 mg, 1.89 mmol) in THF (3 ml) was added dropwise a solution of methyl 2-fluoro-4-methoxybenzoate (273.3 mg, 1.48 mmol) in THF (3 ml). The mixture was stirred for 0.5 hours. To the mixture was added dropwise aqueous THF followed by water. The mixture was extracted three times with ethyl acetate and dried over MgSO4. The solvent was evaporated to give the crude title compound (240.4 mg; >99%).

reactant | LiAlH4 | 1.89 mmol, 71.6 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 2-fluoro-4-methoxybenzoate | 1.48 mmol, 273.3 mg | FC1=C(C(=O)OC)C=CC(=C1)OC | C9H9FO3
reactant | water | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-fluoro-4-methoxybenzylalcohol | 240.4 mg, >99% | FC1=C(CO)C=CC(=C1)OC | C8H9FO2
